US04530922
Preparation of Allyl[bis(4-fluorophenyl)][1-(1H-1,2,4-triazol-1-yl)ethyl]silane
A mixture of 1.78 g (37 mmol) of 50% sodium hydride, 30 ml of dimethylformamide, and 2.56 g (37 mmol) of 1H-1,2,4-triazole is stirred at 50° for one hour, and a solution of 10 g (33.7 mmol) of a 1:1 mixture of allyl[bis(4-fluorophenyl)]-1-chloroethylsilane and allyl[bis(4-fluorophenyl)]-2-chloroethylsilane in 10 ml of dimethylformamide is added. The mixture is stirred at 50° for 64 hours, cooled, diluted with water, and extracted with ether. The ether extracts are washed with water and brine, dried over sodium sulfate, and evaporated to leave a viscous oil. Chromatography over silica gel eluting with 4:1 dichloromethane-acetone provides the title compound.

reactant | sodium hydride | 37 mmol, 1.78 g | [H-].[Na+]
reactant | 1H-1,2,4-triazole | 37 mmol, 2.56 g | N1N=CN=C1 | C2H3N3
reactant | allyl[bis(4-fluorophenyl)]-1-chloroethylsilane | C(C=C)[Si](C(C)Cl)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17ClF2Si
reactant | allyl[bis(4-fluorophenyl)]-2-chloroethylsilane | C(C=C)[Si](CCCl)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17ClF2Si
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane acetone | ClCCl.CC(=O)C
product | Allyl[bis(4-fluorophenyl)][1-(1H-1,2,4-triazol-1-yl)ethyl]silane | C(C=C)[Si](C(C)N1N=CN=C1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H19F2N3Si
